US06492449B2
13.4 g of commercial 1,2,6-hexanetriol are added to 12.4 ml of diethoxymethane and the mixture is refluxed in the presence of 500 mg of toluenesulfonic acid acting as a transacetalisation catalyst. The ethanol is evaporated at 80° C. and the 4-(4-hydroxybutyl)-1,2-dioxolane obtained is purified by distillation. 7.3 g of this product and 4.6 g of epichlorhydrine are reacted in the presence of 2.8 g of potassium hydroxide (powder) and tetrabutylammonium chloride, to form the monomer 4-[(4-glycidyloxy)-butyl]-1,3-dioxolane

reactant | 1,2,6-hexanetriol | 13.4 g | C(C(CCCCO)O)O | C6H14O3
reactant | diethoxymethane | 12.4 ml | C(C)OCOCC | C5H12O2
reactant | toluenesulfonic acid | 500 mg | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
product | 4-(4-hydroxybutyl)-1,2-dioxolane | OCCCCC1COOC1 | C7H14O3
